US07910592B2
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one (8.3 mg, 0.0136 mmol) in MeOH (0.2 mL), was added NaCNBH3 (1.0 mg, 0.0163 mmol), AcOH (3.85 uL, 0.068 mmol) and formaldehyde (38%) (1.3 uL, 0.0176 mmol). The resulting mixture was stirred at room temperature for 16 h. The reaction mixture was washed with sat. aq. NaHCO3. The aqueous layer was extracted with EtOAc (2×). The combined organic layers were washed with brine (1×), dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel to afford (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-methyl-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one. LCMS calc. 625.2; found=624.9 (M+H)+.

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | 0.0136 mmol, 8.3 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C=C2CNCC2=CC1C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C31H29F7N2O3
reactant | NaCNBH3 | 0.0163 mmol, 1.0 mg | [BH3-]C#N.[Na+]
reactant | AcOH | 0.068 mmol, 3.85 uL | CC(=O)O | C2H4O2
reactant | formaldehyde | 0.0176 mmol, 1.3 uL | C=O | CH2O
solvent | MeOH | 0.2 mL | CO | CH4O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[6-(4-fluoro-5-isopropyl-2-methoxyphenyl)-2-methyl-2,3-dihydro-1H-isoindol-5-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC=1C=C2CN(CC2=CC1C1=C(C=C(C(=C1)C(C)C)F)OC)C)C)(F)F | C32H31F7N2O3
